US08802679B2
3-Bromo-2-methylpyridine (500 mg) and tert-butyl piperazine-1-carboxylate (650 mg) were dissolved in toluene (7.5 ml), and (1E,4E)-1,5-diphenylpenta-1,4-dien-3-one_palladium (3:2) (40 mg), 1,1′-binaphthalene-2,2′-diylbis(diphenylphosphine) (18 mg), and 2-methylpropan-2-ol sodium (391 mg) were added thereto in this order under a nitrogen atmosphere, followed by warming to 100° C. and stirring overnight. The reaction mixture was subjected to liquid separation with CHCl3 and water, the organic layer was dried over Na2SO4, and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (CHCl3 to 5% MeOH/CHCl3) to obtain tert-butyl 4-(2-methylpyridin-3-yl)piperazine-1-carboxylate (790 mg) as a pale yellow oil.

reactant | 3-Bromo-2-methylpyridine | 500 mg | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | tert-butyl piperazine-1-carboxylate | 650 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-methylpropan-2-ol sodium | 391 mg | [Na].CC(C)(C)O
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(2-methylpyridin-3-yl)piperazine-1-carboxylate | 790 mg | CC1=NC=CC=C1N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
